US08138178B2
A mixture of (S)-6-(4-fluorophenyl)-6-(2-hydroxy-2-methylpropyl)-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one (700 mg, 1.41 mmol), 5-bromo-1-methylpyridin-2(1H)-one (398 mg, 2.12 mmol), PdCl2(Ph3P)2 (70 mg), Cs2CO3 (1.5 mL, 3.0 mmol) in 1,4-dioxane (15 mL) was heated under reflux for 2 h. The mixture was diluted with EtOAc, and washed with water. The organic phase was separated, and concentrated to give the crude product, which was purified by preparative TLC to afford (S)-6-(4-fluorophenyl)-6-(2-hydroxy-2-methylpropyl)-3-((S)-1-(4-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-1,3-oxazinan-2-one (150 mg, 22%). 1H NMR (CDCl3): δ=1.12 (s, 3H), 1.13 (s, 3H), 1.51 (t, 3H), 2.16 (m, 2H), 2.21 (m, 2H), 2.41 (m, 1H), 2.92 (m, 1H), 3.63 (s, 3H), 5.69 (q, 1H), 6.69 (m, 1H), 6.99 (m, 4H), 7.18 (m, 2H) δ7.27 (m, 2H) δ 7.42 (m, 1H), 7.52 (m, 1H).

reactant | (S)-6-(4-fluorophenyl)-6-(2-hydroxy-2-methylpropyl)-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 1.41 mmol, 700 mg | FC1=CC=C(C=C1)[C@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)CC(C)(C)O | C28H37BFNO5
reactant | 5-bromo-1-methylpyridin-2(1H)-one | 2.12 mmol, 398 mg | BrC=1C=CC(N(C1)C)=O | C6H6BrNO
reactant | Cs2CO3 | 3.0 mmol, 1.5 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-6-(4-fluorophenyl)-6-(2-hydroxy-2-methylpropyl)-3-((S)-1-(4-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 150 mg, 22% | FC1=CC=C(C=C1)[C@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CN(C(C=C1)=O)C)CC(C)(C)O | C28H31FN2O4
